US05969140
To a solution of 1-[2-(1-oxo-1,2-dihydroisoquinolin-2-yl)-4-pyridyl]-2,3-bis(acetoxymethyl)-6,7-diethoxynaphthalene (1.84 g) in methanol (50 ml) is added sodium methoxide (0.52 g) under ice-cooling. The mixture is stirred at room temperature for 2.5 hours. To the mixture is added sodium methoxide (0.17 g) under ice-cooling, and the mixture is stirred at room temperature for one hour. Acetic acid (0.74 ml) is added to the reaction mixture under ice-cooling, and the mixture is concentrated under reduced pressure to remove the solvent. To the residue are added methylene chloride and an aqueous sodium hydrogen carbonate solution, and the methylene chloride layer is separated, washed, dried and concentrated under reduced pressure to remove the solvent. The residue is purified by silica gel column chromatography (solvent; chloroform:ethanol=25:1) to give 1-[2-(1-oxo-1,2-dihydroisoquinolin-2-yl)-4-pyridyl]-2,3-bis-(hydroxymethyl)-6,7-diethoxynaphthalene (0.95 g) which is listed in Table 1.

reactant | 1-[2-(1-oxo-1,2-dihydroisoquinolin-2-yl)-4-pyridyl]-2,3-bis(acetoxymethyl)-6,7-diethoxynaphthalene | 1.84 g | O=C1N(C=CC2=CC=CC=C12)C1=NC=CC(=C1)C1=C(C(=CC2=CC(=C(C=C12)OCC)OCC)COC(C)=O)COC(C)=O | C34H32N2O7
reactant | sodium methoxide | 0.52 g | C[O-].[Na+]
reactant | sodium methoxide | 0.17 g | C[O-].[Na+]
reactant | Acetic acid | 0.74 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 50 ml | CO | CH4O
product | 1-[2-(1-oxo-1,2-dihydroisoquinolin-2-yl)-4-pyridyl]-2,3-bis-(hydroxymethyl)-6,7-diethoxynaphthalene | 0.95 g | O=C1N(C=CC2=CC=CC=C12)C1=NC=CC(=C1)C1=C(C(=CC2=CC(=C(C=C12)OCC)OCC)CO)CO | C30H28N2O5
